Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Valium / Percocet / simvastatin / Dilaudid / enalapril / 
Levaquin / tramadol
 
Attending: ___.
 
Chief Complaint:
abd pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx of GERD, htn, COPD not on home O2, chronic
pancreatitis presenting with recurrent acute episode of back 
pain
with radiation to bilateral flanks with associated emesis.

History is obtained from patient and detailed review of Atrius
records. 

Pt recalls that an EGD/EUS was done by Dr. ___ on ___ for
evaluation of chronic pancreatitis, at which time she was found
to have hyperechoic foci in pancreas, otherwise grossly normal,
no evidence of CBD stone or ampullary mass. Dr. ___ advised 
to
present to ___ for ___ if any further attacks. 

On this occasion, pt recalls that she was at a friend's house at
about 3 pm when she noted the urge defecate. Pt felt
self-conscious using friend's toilet (located right next to the
kitchen), so she walked two walks to her office, then had very
loose, explosive, nonbloody BM. She then developed mid back 
pains
which then wraps beneath bilateral breasts, similar to prior
attacks. She was picked up by a niece (an ___) to be brought to
the ED; en route, she had an episode of emesis which she 
believes
was associated with LOC. She was sitting in the car, so did not
fall - her niece does not believe that she fully lost
consciousness. Pt insisted on coming to ___ as directed
previously by Dr. ___. Immediately after emesis, she noted
pain had improved. Pain is described as sharp, ___ with 
this
attack the worst ever. First attack was ___ years prior, has had a
total of 4 episodes. Pattern of symptoms is identical to prior
episodes, but much more severe. Last EtOH use was ___,
after being advised to stop ___ pancreatitis. She has been very
consistent about low fat diet, with elimination of candy and
deserts, with associated 15 lb intentional weight loss over the
past 6 months. She denies dysuria, urinary urgency, but does
endorse mild suprapubic discomfort. She has noted some
intermittent dark urine.

Denies drenching night sweats.

In the ___ ED:
VS 96.6, 57, 142/66, 100% RA
Exam notable for abdominal exam soft, tenderness in epigastrium,
nondistended, no rebound or guarding
Labs notable for WBC 8.8, Hb 12.6, ALT 16, AST 26, Tbili 0.3, 
alk
phos 104, lipase 103, Cr 0.6, Lactate 1.6
UA positive

Imaging:
CT abd/pelvis with contrast:
1. No evidence of acute intra-abdominal or intrapelvic process
which would
correlate with patient's reported symptoms.
2. Calcifications at the pancreatic head, compatible with given
history of
chronic pancreatitis. No peripancreatic inflammation seen on the
current
study.
3. 5 mm hypodensity within the pancreatic head, likely
potentially pseudocyst
or small side-branch IPMN. Comparison to prior imaging is
recommended.
4. A 1.5 cm left adnexal cyst for which nonurgent pelvic
ultrasound can be
performed unless prior imaging can document long-term stability.

Received:
LR
Ceftriaxone
Zofran

On arrival to the floor, pt endorses ___ pain located at 
midback
without associated nausea. 

ROS: 10 point review of system reviewed and negative except as
otherwise described in HPI

 
Past Medical History:
- Chronic pancreatitis - diagnosed ??? - EUS notable for focal
areas of stranding and echogenic foci in the noular head of the
pancreas and uncinate without any mass lesions - attributed to
EtOH (had been drinking 5 drinks per night)
- COPD, diagnosed ___.
- GERD.
- Hypertension.
- High cholesterol.
- Peripheral neuropathy of her feet and hands.
- Adenomatous polyps.
- Pneumothorax.
- Benign breast biopsy.
- Suburethral sling, ___.
- Allergic rhinitis.
- Hospitalization for multifocal pneumonia ___.
- Hospitalization ___ abdominal pain

 
Social History:
___
Family History:
Comment: FATHER D MI ___ MOTHER D LIVER/UTERINE CA
  Other                                                
    Comment: ___ YO SR (+)BR CA ___. MO ___. ___ YO 
             LIVER CA.
 
Physical Exam:
VS: 97.6 PO 157 / 77 59 18 98 RA 
GEN: alert and interactive, comfortable, no acute distress
HEENT: PERRL, anicteric, conjunctiva pink, oropharynx without
lesion or exudate, upper dentures in place, moist mucus
membranes, ears without lesions or apparent trauma
LYMPH: no anterior/posterior cervical, supraclavicular 
adenopathy
CARDIOVASCULAR: Regular rate and rhythm without murmurs, rubs, 
or
gallops
LUNGS: clear to auscultation bilaterally without rhonchi,
wheezes, or crackles
GI: soft, mild TTP at epigastrium, without rebounding or
guarding, nondistended with normal active bowel
sounds, no hepatomegaly
EXTREMITIES: no clubbing, cyanosis, or edema
GU: no foley
SKIN: no rashes, petechia, lesions, or echymoses; warm to
palpation
NEURO: Alert and interactive, cranial nerves II-XII grossly
intact, strength and sensation grossly intact
PSYCH: normal mood and affect
 
Pertinent Results:
___ 05:26AM BLOOD WBC-7.2 RBC-3.84* Hgb-11.8 Hct-36.1 
MCV-94 MCH-30.7 MCHC-32.7 RDW-11.9 RDWSD-40.6 Plt ___
___ 06:00PM BLOOD Neuts-78.3* Lymphs-13.8* Monos-5.3 
Eos-2.0 Baso-0.3 Im ___ AbsNeut-6.91* AbsLymp-1.22 
AbsMono-0.47 AbsEos-0.18 AbsBaso-0.03
___ 05:26AM BLOOD Glucose-97 UreaN-12 Creat-0.7 Na-144 
K-4.4 Cl-107 HCO3-23 AnGap-14
___ 05:03AM BLOOD ALT-12 AST-13 AlkPhos-81 TotBili-0.4
___ 06:00PM BLOOD Lipase-103*
___ 06:00PM BLOOD cTropnT-<0.01
___ 05:26AM BLOOD Calcium-9.5 Phos-4.2 Mg-2.0

CT ABD:
IMPRESSION:
 
 
1. No evidence of acute intra-abdominal or intrapelvic process 
which would
correlate with patient's reported symptoms.
2. Calcifications at the pancreatic head, compatible with given 
history of
chronic pancreatitis.  No peripancreatic inflammation seen on 
the current
study.
3. 5 mm hypodensity within the pancreatic head, likely 
potentially pseudocyst
or small side-branch IPMN.  Comparison to prior imaging is 
recommended.
4. A 1.5 cm left adnexal cyst for which nonurgent pelvic 
ultrasound can be
performed unless prior imaging can document long-term stability.
 
 
Brief Hospital Course:
___ with hx of chronic pancreatitis (? EtOH), GERD, HTN, COPD 
not on home O2, presents with suspected recurrent acute on 
chronic pancreatitis vs bacterial UTI

# Epigastric pain/back pain with anterior radiation:
# Acute on Chronic pancreatitis: 
Lipase was quite modestly elevated with findings of chronic but 
not acute pancreatitis on CT scan in the emergency room.  
Extensive evaluation in the past for these episodes including 
EGD with EUS, reported MRIs at ___, and lab 
testing with primary gastroenterologist in the ___ system have 
all been unrevealing for the cause of her chronic pancreatitis.  
In addition to acute pancreatitis/flare of chronic pancreatitis, 
differential diagnosis also included peptic ulcer disease, less 
likely gastritis or aortic disease.  Her abdominal pain 
substantially improved after emesis, and she had no LFT 
elevation to suggest ongoing biliary obstruction or component of 
acute hepatitis.  The etiology of her chronic pancreatitis 
remains unknown, although has been attributed to prior 
relatively heavy alcohol use.  Triglycerides had been only 
modestly elevated, at 186 on ___ and 217 on ___ in 
___ system. No clear medication culprit.  Initially MRCP was 
considered but deferred given normal LFTs, at least until 
several weeks of stable symptoms.  Her diet was successfully 
advanced and GI follow up was arranged.
- IgG subclasses were pending on DC

# E. coli UTI:
Denied dysuria, urinary frequency or urgency, endorsed only mild 
suprapubic discomfort which she first noted in the ED. Received 
ceftriaxone in the ED. No prior micro data to guide empiric rx.  
Urine  cx with E. coli at >100k.  It is possible all of her 
symptoms are in fact related to her UTI.  Per the patient this 
is her ___ UTI in the last year.  Given her clinical 
improvement she was given 3 days of CTX empirically and 
discharged with final sensitivities pending.  Her final cx will 
be reviewed after discharge to ensure successful therapy.  
Urology referral was recommended given her recurrent UTI.

# COPD: 
Not on home O2, no wheeze on exam.
- cont home Bevespi, nebs

# Chronic constipation, bloating, GERD: 
- Continued home famotidine, omeprazole, and miralax

# HLD:
- Continued home atorvastatin

# Hypertension: 
- Continued home losartan with hold parameters

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Famotidine 40 mg PO QHS 
2. Omeprazole 40 mg PO BID 
3. Losartan Potassium 100 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Fluticasone Propionate NASAL Dose is Unknown  NU ASDIR 
6. Aspirin 81 mg PO EVERY OTHER DAY 
7. Zenpep (lipase-protease-amylase) ___ unit oral TID W/MEALS 
8. Bevespi Aerosphere (glycopyrrolate-formoterol) ___ mcg 
inhalation BID 
9. Atorvastatin 10 mg PO QPM 
10. GuaiFENesin ER Dose is Unknown  PO Q12H 
11. Culturelle (Lactobacillus rhamnosus GG) 15 billion cell oral 
DAILY 
12. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1.  Phenazopyridine 100 mg PO TID Duration: 3 Days 
RX *phenazopyridine 100 mg 1 tablet(s) by mouth three times a 
day Disp #*8 Tablet Refills:*0 
2.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
3.  GuaiFENesin ER 600 mg PO Q12H  
4.  Aspirin 81 mg PO EVERY OTHER DAY  
5.  Atorvastatin 10 mg PO QPM  
6.  Bevespi Aerosphere (glycopyrrolate-formoterol) ___ mcg 
inhalation BID  
7.  Culturelle (Lactobacillus rhamnosus GG) 15 billion cell oral 
DAILY  
8.  Famotidine 40 mg PO QHS  
9.  Gabapentin 300 mg PO BID  
10.  Losartan Potassium 100 mg PO DAILY  
11.  Omeprazole 40 mg PO BID  
12.  Polyethylene Glycol 17 g PO DAILY  
13.  Zenpep (lipase-protease-amylase) ___ unit oral TID 
W/MEALS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic pancreatitis
E. coli UTI
Incidental left adnexal cyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with abdominal pain which may have been 
related to a flare of your pancreatitis.  You also had lower 
abdominal pain and a urine culture consistent with a UTI.  You 
received 3 days of Ceftriaxone for this.

We recommend follow up with your GI doctor to evaluate your 
pancreatitis.  You may need an MRCP in a few weeks.  We also 
recommend that you have a referral to a urologist to look for 
reasons why you have recurrent UTIs.

Finally, as we discussed, we found an incidental 1.5 cm cyst in 
your left pelvic.  We recommend a Pelvic ultrasound non urgently 
to evaluate this further.
 
Followup Instructions:
___